US06348474B1
5-(Methoxycarbonyl)-2-methylbenzo[b]furan
5-Carboxy-2-methylbenzo[b]furan (1.9 g, 10.7 mmol) was suspended in methanol (50 ml) and concentrated sulfuric acid (0.1 ml) was added, which was followed by reflux under heating for 14 hr. After cooling, a saturated aqueous sodium hydrogencarbonate solution was added. Methanol was evaporated under reduced pressure, and the residue was extracted with methyl t-butyl ether. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=9/1) to give the objective compound (1.66 g, 81%) as colorless crystals.

reactant | 5-Carboxy-2-methylbenzo[b]furan | 10.7 mmol, 1.9 g | C(=O)(O)C1=CC2=C(OC(=C2)C)C=C1 | C10H8O3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(Methoxycarbonyl)-2-methylbenzo[b]furan | 1.66 g, 81% | COC(=O)C1=CC2=C(OC(=C2)C)C=C1 | C11H10O3
